US04814345
2.1 g of 2-[3-(N,N-diethylamino)-2-hydroxypropylaminocarbonyl]-3-hydroxy-1-phenylindole hydrochloride (0.005 mole) are mixed in 25 ml of methylene chloride with 0.7 ml triethylamine (0.005 mole) and 0.6 ml of succinic acid methylester chloride and the reaction mixture agitated for 1 h at room temperature. The solution is then washed with a saturated solution of sodium chloride, dried over sodium sulfate, filtered and evaporated. The residue is purified by low pressure chromatography using methylene chloride as the elution agent, as described in Example 3. 2-[3-N,N-diethylamino)-2-hydroxypropylaminocarbonyl]-3-methoxycarbonylethylcarbonyloxy-1-phenylindole hydrochloride is obtained as an oily product.

reactant | 2-[3-(N,N-diethylamino)-2-hydroxypropylaminocarbonyl]-3-hydroxy-1-phenylindole hydrochloride | 0.005 mole, 2.1 g | Cl.C(C)N(CC)CC(CNC(=O)C=1N(C2=CC=CC=C2C1O)C1=CC=CC=C1)O
reactant | triethylamine | 0.005 mole, 0.7 ml | C(C)N(CC)CC | C6H15N
reactant | succinic acid methylester chloride | 0.6 ml | [Cl-].COC(CCC(=O)O)=O
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
product | 3-methoxycarbonylethylcarbonyloxy-1-phenylindole hydrochloride | Cl.COC(=O)CCC(=O)OC1=CN(C2=CC=CC=C12)C1=CC=CC=C1 | InChI=1S/C19H17NO4.ClH/c1-23-18(21)11-12-19(22)24-17-13-20(14-7-3-2-4-8-14)16-10-6-5-9-15(16)17;/h2-10,13H,11-12H2,1H3;1H
